US06635657B1
D. 5-Amino-N-(5-chloropyridin-2-yl)-2-[1-(4-pyridinyl)piperidin-4-ylmethylamino]benzamide
A solution of methyl 5-nitro-2-[1-(4-pyridinyl)piperidin-4-ylmethylamino]benzoate (400 mg, 1.08 mmol) was treated with the magnesium salt of 2-amino-5-chloropyridine [freshly prepared by the addition of methyl magnesium bromide (2.16 mmol) to a solution of 2-amino-5-chloropyridine (2.16 mmol) in THF (11 mL)] and the mixture was heated at reflux. After 3 h, the mixture was cooled, sonicated, and the resulting solid (645 mg) collected by filtration. Using a similar procedure to that described in Example 2-B, the crude material was reduced to yield 370 mg of the titled compound; which was used without further purification.

reactant | methyl 5-nitro-2-[1-(4-pyridinyl)piperidin-4-ylmethylamino]benzoate | 1.08 mmol, 400 mg | [N+](=O)([O-])C=1C=CC(=C(C(=O)OC)C1)NCC1CCN(CC1)C1=CC=NC=C1 | C19H22N4O4
reactant | 2-amino-5-chloropyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | methyl magnesium bromide | 2.16 mmol | C[Mg]Br
reactant | 2-amino-5-chloropyridine | 2.16 mmol | NC1=NC=C(C=C1)Cl | C5H5ClN2
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 5-Amino-N-(5-chloropyridin-2-yl)-2-[1-(4-pyridinyl)piperidin-4-ylmethylamino]benzamide | 370 mg | NC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NCC1CCN(CC1)C1=CC=NC=C1 | C23H25ClN6O
